US08247401B2
Step G: 3-(5-Chloropyridin-2-yl)-5-(1-hydroxy-1-methylethyl)-N-{(1R)-1-[1-oxido-6-(trifluoromethyl)pyridin-3-yl]ethyl}benzamide
To a solution of 3-(5-chloropyridin-2-yl)-5-(1-hydroxy-1-methylethyl)benzoic acid (20 mg, 0.07 mmol) in DMF (0.7 mL) were added the potassium chloride salt of (1R)-1-[1-oxido-6-(trifluoromethyl)pyridin-3-yl]ethanamine (33.6 mg, 0.09 mmol), HATU (0.05 M in DMA; 0.21 mL, 0.10 mmol) and diisopropylamine (60 μL, 0.34 mmol). The mixture was stirred at ambient temperature. After 30 min, the mixture was filtered and the filtrate was purified by reverse phase chromatography (C-18, 95% water/acetonitrile→25% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (25 mg). FIRMS 480.1302 (M+1). 1H NMR (400 MHz, CDCl3): δ 8.58 (s, 1H); 8.36 (s, 1H); 8.20 (d, J=4.9 Hz, 2H); 8.04 (s, 1H); 7.78-7.61 (m, 3H); 7.42-7.30 (m, 2H); 5.33-5.23 (m, 1H); 1.69 (s, 6H), 1.63 (d, J=7.1 Hz, 3H).

reactant | 3-(5-chloropyridin-2-yl)-5-(1-hydroxy-1-methylethyl)benzoic acid | 0.07 mmol, 20 mg | ClC=1C=CC(=NC1)C=1C=C(C(=O)O)C=C(C1)C(C)(C)O | C15H14ClNO3
reactant | potassium chloride salt | [Cl-].[K+]
reactant | (1R)-1-[1-oxido-6-(trifluoromethyl)pyridin-3-yl]ethanamine | 0.09 mmol, 33.6 mg | [O-][N+]1=CC(=CC=C1C(F)(F)F)[C@@H](C)N | C8H9F3N2O
reactant | HATU | 0.10 mmol, 0.05 M, 0.21 mL | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylamine | 0.34 mmol, 60 μL | C(C)(C)NC(C)C | C6H15N
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | 3-(5-Chloropyridin-2-yl)-5-(1-hydroxy-1-methylethyl)-N-{(1R)-1-[1-oxido-6-(trifluoromethyl)pyridin-3-yl]ethyl}benzamide | 25 mg | ClC=1C=CC(=NC1)C=1C=C(C(=O)N[C@H](C)C=2C=[N+](C(=CC2)C(F)(F)F)[O-])C=C(C1)C(C)(C)O | C23H21ClF3N3O3
